US05610039
A reaction solution is is prepared by adding 170 ml of a bulk solution of N-n-butylglucamine hydrochloride with a concentration of 450 gm/L (by HPLC) to 210 ml of water in a 1-L bioreactor. The solution is adjusted to pH 5 by adding dilute sodium hydroxide and cooled to about 15° C. A total of 20 gm (wet weight) of washed G. oxydans cell paste is added and the reaction mixture is agitated (1000 rpm) and aerated (1 vvm) while controlling the temperature at 15° C. and pH at 5. After 27 hours, the HPLC assay indicates that over 97% of the substrate has been converted for a 80% yield of N-n-butylamino-6-deoxy-α-L-sorbofuranose.

reactant | N-n-butylglucamine hydrochloride | Cl.C(CCC)NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 210 ml | O | H2O
product | N-n-butylamino-6-deoxy-α-L-sorbofuranose | 80% yield | C(CCC)NC(O)[C@]1(O)[C@@H](O)[C@H](O)[C@@H](O1)C | C10H21NO5
